US07557137B2
Step A(4). (1S,2R)-[1-(3,4-Difluoro-benzyl)-2-hydroxy-3-(3-methoxy-benzylamino)-propyl]-carbamic acid tert-butyl ester
A solution of (1R,2S)-[2-(3,4-difluoro-phenyl)-1-oxiranyl-ethyl]-carbamic acid tert-butyl ester (0.03 g, 0.1 mmol) in acetonitrile (1 mL) was treated with lithium triflate (0.032 g, 0.2 mmol) and stirred at ambient temperature for 20 minutes. Then 3-methoxybenzylamine (0.016 mL, 0.12 mmol) was added to the reaction neat in one portion. The reaction was stirred at ambient temperature for 14 hours. The reaction was poured into saturated ammonium chloride solution (5 mL), extracted with ethyl acetate, the organic phase separated, dried (MgSO4) and the solvent removed at reduced pressure. The product was obtained as an oil and used without further purification (0.041 g, 94%). MS: 437 (M+H, 100%).

reactant | (1R,2S)-[2-(3,4-difluoro-phenyl)-1-oxiranyl-ethyl]-carbamic acid tert-butyl ester | 0.1 mmol, 0.03 g | C(C)(C)(C)OC(N[C@H](CC1=CC(=C(C=C1)F)F)[C@@H]1OC1)=O | C15H19F2NO3
reactant | lithium triflate | 0.2 mmol, 0.032 g | [O-]S(=O)(=O)C(F)(F)F.[Li+]
reactant | 3-methoxybenzylamine | 0.12 mmol, 0.016 mL | COC=1C=C(CN)C=CC1 | C8H11NO
reactant | ammonium chloride | 5 mL | [Cl-].[NH4+]
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | (1S,2R)-[1-(3,4-Difluoro-benzyl)-2-hydroxy-3-(3-methoxy-benzylamino)-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]([C@@H](CNCC1=CC(=CC=C1)OC)O)CC1=CC(=C(C=C1)F)F)=O | C23H30F2N2O4
